US04342780
B. 2-Amino-2-fluoromethyl-3-(3-hydroxy-4-methoxyphenyl)propionic acid
A solution of 2-amino-2-fluoromethyl-3-(3-benzyloxy-4-methoxyphenyl)propionitrile (0.7 g) in absolute methanol saturated with dry hydrogen chloride (50 ml) is heated at reflux for 12 hours. The methanol is evaporated and the residue dissolved in trifluoroacetic acid (10 ml). The mixture is heated at reflux temperature for 2 hours. Water (4 ml) is then added, and reflux continues overnight. The residue obtained upon evaporation under reduced pressure is passed through Amberlite 120 H+ ion exchange resin column. The ninhydrin positive fractions are pooled and concentrated. The residue is crystallized from water-methanol-ether to afford the desired product.

reactant | 2-amino-2-fluoromethyl-3-(3-benzyloxy-4-methoxyphenyl)propionitrile | 0.7 g | NC(C#N)(CC1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)CF | C18H19FN2O2
reactant | hydrogen chloride | 50 ml | Cl | ClH
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | methanol | CO | CH4O
product | 2-Amino-2-fluoromethyl-3-(3-hydroxy-4-methoxyphenyl)propionic acid | NC(C(=O)O)(CC1=CC(=C(C=C1)OC)O)CF | C11H14FNO4
